US05976409
(3) Preparation of 4-acetoxy-2-fluoro-1-(1-ethylpropyloxycarbonyl)benzene
1.0 Gram of 4-acetoxy-2-fluorobenzoic acid was added to 7 ml of thionyl chloride, and the mixture was allowed to react under reflux for 5 hours. Thereafter, excessive thionyl chloride was distilled off, and a mixture comprising 1 ml of pyridine, 4 ml of dry ether and 0.6 g of 3-pentanol was added dropwise to the above mixture. After the addition, the resulting mixture was stirred at room temperature for one day and diluted with 200 ml of ether, and an organic layer was washed consecutively with diluted hydrochloric acid, a 1N sodium hydroxide aqueous solution and water, and dried over magnesium sulfate.

reactant | 4-acetoxy-2-fluorobenzoic acid | C(C)(=O)OC1=CC(=C(C(=O)O)C=C1)F | C9H7FO4
reactant | thionyl chloride | 7 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-acetoxy-2-fluoro-1-(1-ethylpropyloxycarbonyl)benzene | C(C)(=O)OC1=CC(=C(C=C1)C(=O)OC(CC)CC)F | C14H17FO4
